US06891066B2
2,3,4-Trifluorobenzoic acid and the product of Example 27, Step A, 2-fluoro-4-ethylthioaniline, were reacted in the presence of LiHMDS solution in THF by the general procedure of Example 1, Step B. After workup, a yellow solid was obtained which was purified by dry flash column chromatography on silica (0.5% Et2O in 1:1 CH2Cl2/hexanes as eluant) to afford 3,4-difluoro-2-[[2-fluoro-4-(ethylthio)phenyl]amino]benzoic acid as a yellow solid (55%); m.p. (Et2O) 136-139° C. 1H NMR (400 MHz, CDCl3) δ 13.70 (br s, 1 H), 9.24 (br s, 1 H), 7.81 (ddd, J=9.2, 6.1, 2.1 Hz, 1 H), 7.26 (dd, J=11.8, 2.0 Hz, 1 H), 7.08 (dd, J=8.3, 2.0 Hz, 1 H), 7.06 (td, J=9.7, 7.0 Hz, 1 H), 7.02 (ddd, J=9.2, 8.3, 4.7 Hz, 1 H), 2.96 (q, J=7.3 Hz, 2 H), 1.22 (t, J=7.3 Hz, 3 H). Anal. Calcd for C15H12F3NO2S: C, 55.0; H, 3.7; N, 4.3. Found: C, 55.5; H, 3.7; N, 4.3.

reactant | 2,3,4-Trifluorobenzoic acid | FC1=C(C(=O)O)C=CC(=C1F)F | C7H3F3O2
reactant | 2-fluoro-4-ethylthioaniline | FC1=C(N)C=CC(=C1)SCC | C8H10FNS
reactant | LiHMDS | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
solvent | THF | C1CCOC1 | C4H8O
product | 3,4-difluoro-2-[[2-fluoro-4-(ethylthio)phenyl]amino]benzoic acid | 55% | FC=1C(=C(C(=O)O)C=CC1F)NC1=C(C=C(C=C1)SCC)F | C15H12F3NO2S
